US07786132B2
1-{2-[4-(5-Chlorothiophen-2-yl)-5-(3-hydroxyphenyl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione
The title compound was prepared from 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione and 3-hydroxyphenylboronic acid in a manner analogous to Example 269. MS (M+H)+ 458.

reactant | 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC(=CC1)Cl | C15H15BrClN5O2S
reactant | 3-hydroxyphenylboronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 1-{2-[4-(5-Chlorothiophen-2-yl)-5-(3-hydroxyphenyl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | ClC1=CC=C(S1)C1=NC(=NC=C1C1=CC(=CC=C1)O)NCCN1C(NC(C1(C)C)=O)=O | C21H20ClN5O3S
